US06187793B1
To a solution of 2 mL (23 mmoles) of oxalyl chloride in 35 mL of dry dichloromethane, cooled at −70°C., was added drop by drop a solution of 3 mL (42 mmoles) of dimethyl sulfoxide dissolved in 10 mL of dichloromethane and the mixture was stirred for 5 minutes. Then 5 g (11 mmoles) of 7-[3-[4-(6-fluorobenzo[d]isoxazole-3-yl)piperidin-1-yl]propoxy]-3-(hydroxymethyl)-chromen-4-one (Patent ES 9600323) were added in several portions for 15 minutes and stirred for further 30 minutes at −70° C. 15 mL (107 moles) of triethylamine were added drop by drop and stirred overnight while allowed to warm to room temperature gradually. By cooling at −20° C., 50 mL of water were added, the mixture was allowed to warm to room temperature and the organic phase was decanted, dried over sodium sulphate and evaporated. The solid obtained was purified by chromatography on a silica gel column. Elution of the column with CHCl3:CH3OH (98:2, v/v) gave 2.12 g of 7-[3-[4-(6-fluorobenzo[d]isoxazole-3-yl)piperidin-1-yl]propoxy]-3-formyl-chromen-4-one in 43% yield, mp 163-5° C.

reactant | oxalyl chloride | 23 mmoles, 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 42 mmoles, 3 mL | CS(=O)C | C2H6OS
reactant | 7-[3-[4-(6-fluorobenzo[d]isoxazole-3-yl)piperidin-1-yl]propoxy]-3-(hydroxymethyl)-chromen-4-one | 11 mmoles, 5 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=CC=C3C(C(=COC3=C2)CO)=O)C=C1 | C25H25FN2O5
reactant | triethylamine | 107 moles, 15 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 7-[3-[4-(6-fluorobenzo[d]isoxazole-3-yl)piperidin-1-yl]propoxy]-3-formyl-chromen-4-one | 2.12 g, 43% yield | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=CC=C3C(C(=COC3=C2)C=O)=O)C=C1 | C25H23FN2O5
